*** Test netlist from Tapan's diagram ***

.options maxdelta=1000.

*.analysis op
.analysis eop


x1 2 subcircuit1
x2 2 3 subcircuit2
x3 3 subcircuit3


.subckt subcircuit1 2 
res:r1  1 gnd   r=10
res:r2 1 2 r=10
vdc:vdd 1 0 vdc=2
res:r3 2 0 r=10
.ends

.subckt subcircuit2 2 3
res:r12 2 3 r=10
res:r4 3 4 r=10
res:r7 4 0 r=10
res:r6 5 0 r=10
res:r5 3 5 r=10
.ends

.subckt subcircuit3 3
res:r8 3 6 r=10
res:r9 6 0 r=10
res:r10 6 7 r=10
res:r11 7 0 r=10
.ends

.end

